.subckt SRAM WL BL BLB VSS VDD VBP VBN
XMP1 Q  QB  VDD VBP pmos1 l=0.021u w=0.005u m=1 nfin=1
XMP2 QB Q   VDD VBP pmos1 l=0.021u w=0.005u m=1 nfin=1

XMN1 BL  WL Q   VBN nmos1 l=0.021u w=0.005u m=1 nfin=2
XMN2 Q   QB VSS VBN nmos1 l=0.021u w=0.005u m=1 nfin=2
XMN3 QB  Q  VSS VBN nmos1 l=0.021u w=0.005u m=1 nfin=2
XMN4 BLB WL QB  VBN nmos1 l=0.021u w=0.005u m=1 nfin=2
.ends SRAM
